US04150135
A solution of 4 g (14.7 mmoles) of 4a-(m-methoxyphenyl)-1,3-diketo-trans-decahydroisoquinoline in 50 ml of anhydrous dimethylformamide was added dropwise to 700 mg of a 55% suspension of sodium hydride in mineral oil in 50 ml of dimethylformamide at 70°. The reaction mixture was heated for 1 hour after the addition was complete and then cooled to 25°. 3,3-Dimethylallyl bromide (2.37 g, 15.8 mmoles) in 10 ml of dimethylformamide was added dropwise and the solution stirred overnight at 25°. After heating at 80° for 1 hour it was poured into water and extracted with ether to yield 4.74 g of N-(3,3-dimethylallyl)-4a-(m-methoxyphenyl)-1,3-diketo-cis-decahydroisoquinoline (oil), which was evaporatively distilled, bp 225° (0.005 mm).

reactant | 4a-(m-methoxyphenyl)-1,3-diketo-trans-decahydroisoquinoline | 14.7 mmoles, 4 g | COC=1C=C(C=CC1)[C@@]12CC(NC([C@@H]2CCCC1)=O)=O | C16H19NO3
reactant | sodium hydride | [H-].[Na+]
reactant | 3,3-Dimethylallyl bromide | 15.8 mmoles, 2.37 g | CC(=CCBr)C | C5H9Br
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(3,3-dimethylallyl)-4a-(m-methoxyphenyl)-1,3-diketo-cis-decahydroisoquinoline | 4.74 g | CC(=CCN1C([C@H]2CCCC[C@]2(CC1=O)C1=CC(=CC=C1)OC)=O)C | C21H27NO3
